US07176242B2
Step 4: 3-Butyl-1-methyl-1H-indole-5-carboxylic acid
To a mixture of ethyl 3-butyl-1-methyl-1H-indole-5-carboxylate (0.294 g) in methanol (20 mL) was added 1N NaOH (10 mL). The mixture was stirred at 50° C. for 18 h, cooled to room temperature and poured into 1N HCl (50 mL). The mixture was extracted with ethyl acetate and the ethyl acetate extract was dried over anhydrous sodium sulfate and concentrated to dryness under reduced pressure to give 0.234 g (89%) of the title compound: 1H NMR (CD3OD) δ 0.965, 1.42, 1.69, 2.76, 3.77, 7.02, 7.35, 7.84, 8.29.

reactant | ethyl 3-butyl-1-methyl-1H-indole-5-carboxylate | 0.294 g | C(CCC)C1=CN(C2=CC=C(C=C12)C(=O)OCC)C | C16H21NO2
reactant | NaOH | 1N, 10 mL | [OH-].[Na+]
reactant | HCl | 1N, 50 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | 3-Butyl-1-methyl-1H-indole-5-carboxylic acid | 0.234 g, 89% | C(CCC)C1=CN(C2=CC=C(C=C12)C(=O)O)C | C14H17NO2
